US05861417
4.1 Resolution of (R)-(+)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (S,S)-di-p-anisoyltartaric acid salt
Combine (S,S)-di-p-anisoyltartaric acid (14.77 g, 35 mmol), water (200 mL) and methanol (200 mL). Heat to reflux. Add dropwise, a solution of 3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (18.36 g, 70 mmol) in methanol (135 mL). After 1.5 hours, add water (135 mL) and slowly cool to ambient temperature to give a solid. Filter the solid that forms and rinse with water to give the title compound: mp; 201°-202° C. (dec). Analysis by HPLC, as described in Example 3.3.4 indicates an enantiomeric excess of 99.9%, (99.9% ee). [°]2D0 =+17.90°(c=1.00, dimethylsulfoxide).

reactant | (S,S)-di-p-anisoyltartaric acid | 35 mmol, 14.77 g | C(C1=CC=C(C=C1)OC)(=O)[C@]([C@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | water | 200 mL | O | H2O
reactant | 3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | 70 mmol, 18.36 g | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | water | 135 mL | O | H2O
solvent | methanol | 135 mL | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | (R)-(+)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (S,S)-di-p-anisoyltartaric acid salt | C(C1=CC=C(C=C1)OC)(=O)[C@]([C@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)[C@]1(CNCC1)CCO | InChI=1S/C20H18O10.C12H15Cl2NO/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;13-10-2-1-9(7-11(10)14)12(4-6-16)3-5-15-8-12/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-2,7,15-16H,3-6,8H2/t19-,20-;12-/m00/s1
